* C:\Users\Florian\Documents\dev\stomp\harmonic_jerkulator\sim\harmonic_jerkulator_01.asc
R1 N010 0 1k
R2 N007 N010 {100k*GAIN}
R3 vin N007 {100k*(1-GAIN)}
vcc vcc 0 9
vsin vsin 0 SINE(0 100m 1k)
venv venv 0 PWL(0 0.001 200m 0.999)
C1 N008 N007 22n
Q1 N009 N008 N005 0 2N3906
Q2 N002 N001 N005 0 2N3904
C2 N005 0 22µ
R4 N009 0 22k
C3 N001 N009 47n
R5 N002 N001 100k
R6 N009 N008 1Meg
R7 vcc N002 22k
C4 N003 N002 100n
R8 vout 0 {100k*VOLUME}
R9 N004 vout {100k*(1-VOLUME)}
B1 vin 0 V=V(venv)*V(vsin)
V1 NC_01 0 SINE(0 100m 1k) AC 100m
R10 N004 N003 100k
V2 N011 0 wavefile=.\guit_sample_01.wav chan=0
D1 0 N003 1N4148
D2 N003 N006 1N4148
R11 N006 0 1k
C5 N003 0 1n
.model D D
.lib C:\Users\Florian\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Florian\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param GAIN=0.5
.param VOLUME=0.5
.tran 200m
;ac oct 10 10 40k
.wave .\harmonic_jerkulator.wav 16 44100 V(vout)
.MODEL 1N34A D( bv=75 cjo=0.5e-12 eg=0.67 ibv=18e-3 is=2e-7 rs=7 n=1.3 vj=0.1 m=0.27 type=germanium)
.op
.backanno
.end
